US06046201
N-(12-Hydroxydodecyl)-6-(4-isopropyl-1-piperazinyl)pyridine-3-carboxamide
A solution of 0.7 g of N-(12-hydroxydodecyl)-6-(1-piperazinyl)pyridine-3-carboxamide, 0.24 g of isopropyl bromide and 0.7 g of potassium carbonate in 20 ml of dimethylformamide was stirred at 100° C. for 3 hours. The reaction solution was diluted with chloroform, washed with water and a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue thus obtained was chromatographed over a silica gel column to afford the title compound as a crystal.

reactant | N-(12-hydroxydodecyl)-6-(1-piperazinyl)pyridine-3-carboxamide | 0.7 g | OCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCNCC1 | C22H38N4O2
reactant | isopropyl bromide | 0.24 g | C(C)(C)Br | C3H7Br
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(12-Hydroxydodecyl)-6-(4-isopropyl-1-piperazinyl)pyridine-3-carboxamide | OCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)C(C)C | C25H44N4O2
